US04988698
A mixture of 2-amino-4-ethylpyridine (3.8 g), ethyl 3-bromo-2-oxopropionate (6.84 g) and ethanol (30 ml) was refluxed for 6 hours. After the reaction mixture was concentrated, water (30 ml) and ehtyl acetate (30 ml) were added to the residue. The mixture was made basic with an aqueous solution of potassium carbonate, and the separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated and the residue was subjected to a column chromatography on silica gel (150 g) and eluted with 15% solution of ethyl acetate in chloroform. The fractions containing the object compound were combined and concentrated to give ethyl 7-ethylimidazo[1,2-a]pyridine-2-carboxylate (1.26 g).

reactant | 2-amino-4-ethylpyridine | 3.8 g | NC1=NC=CC(=C1)CC | C7H10N2
reactant | ethyl 3-bromo-2-oxopropionate | 6.84 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 7-ethylimidazo[1,2-a]pyridine-2-carboxylate | 1.26 g | C(C)C1=CC=2N(C=C1)C=C(N2)C(=O)OCC | C12H14N2O2
